US07402608B2
A solution of 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester (140 mg, 0.823 mmol) in MeOH (3.5 mL) and 10% aq. NaOH (1.0 mL, 2.5 mmol) was heated at 65° C. for 3 h, reaction mixture was cooled to room temperature, solvent was evaporated, diluted with water. The aqueous solution was washed with ether, and acidified with aq. 1 N HCl, extracted with ether. The ethereal solution was washed with brine and dried. Evaporation of the solvent furnished 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid (82 mg, 70% yield. NMR 1H (CDCl3, 400 MHz): 5.54-5.5 (m, 1H), 4.24-4.1 (m, 3H), 2.4-2.3 (m, 2H), 1.6 (s, 3H).

reactant | 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 0.823 mmol, 140 mg | C(C)OC(=O)C1OCC(=CC1)C | C9H14O3
reactant | NaOH | 2.5 mmol, 1.0 mL | [OH-].[Na+]
solvent | MeOH | 3.5 mL | CO | CH4O
product | 5-methyl-3,6-dihydro-2H-pyran-2-carboxylic acid | 70% yield | CC1=CCC(OC1)C(=O)O | C7H10O3
